US07091314B2
444.7 g (1.67 mole) of commercially available H-Orn(Z)-OH was dissolved in 3.5 L (93 moles) of formic acid. The solution was cooled in an ice bath, and 1.17 L (12 moles) of acetic anhydride was subsequently added in dropwise fashion over two hours while the temperature of the reaction mixture was maintained between about 5° and 15° C. The resultant reaction mixture was stirred at room temperature for about two hours after the addition was completed, and the reaction vessel was refrigerated overnight. 1.5 L of cold water was then added, and the solution was concentrated to dryness under reduced pressure. The residual, light yellow syrup was taken up into EtOAc, washed with water and then with saturated NaCl, and then dried overnight over sodium sulfate. After filtration and evaporation to dryness, the residual syrup was dissolved in 5 L of ethyl ether. The solution was cooled in a dry ice bath and seeded. The resulting crystalline product was filtered, washed with ethyl ether, air dried for two hours and finally dried in a lyophilizer. 431.6 g (1.47 mole, 88%) of For-Orn(Z)-OH was obtained.

reactant | H-Orn(Z)-OH | N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C13H18N2O4
reactant | formic acid | 93 moles, 3.5 L | C(=O)O | CH2O2
reactant | acetic anhydride | 12 moles, 1.17 L | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 1.5 L | O | H2O
product | For-Orn(Z)-OH | 1.47 mole, 431.6 g, 88% | N([C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C=O | C14H18N2O5
